US07179818B2
To a solution of 3-aminoquinuclidine dihydrochloride (8.0 g, 40.0 mmol) in EtOH (100 mL) was added excess Na2CO3 and the mixture was stirred for 1 h and then filtered. To this solution was added benzaidehyde (3.2 g, 30.0 mmol) and the reaction was stirred at room temperature for 2 h and then NaBH4 (3 pellets, 0.4 g ea.) was added and the reaction was stirred overnight at room temperature. The solvent was evaporated in vacuo and the residue was partitioned between 10% Na2CO3 and EtOAc. The organic layer was separated, dried over K2CO3, filtered and the solvent was evaporated in vacuo. The residue was chromatographed on silica (92/8 CHCl3/1.0 M NH3 in MeOH) to give N-phenylmethyl-1-azabicyclo[2.2.2]octan-3-amine (4.2 g, 76%) as an intermediate, a pale yellow oil. MH+=217. 1H NMR (CDCl3) 1.4 (m, 3H), 1.7 (m, 1H), 1.9 (m, 2H), 2.45 (2m, 1H), 2.8 (m, 5H), 3.2 (m, 1H), 3.75 (d, 2H), 7.3 (m, 5H).

reactant | 3-aminoquinuclidine dihydrochloride | 40.0 mmol, 8.0 g | Cl.Cl.NC1CN2CCC1CC2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | benzaidehyde | 30.0 mmol, 3.2 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaBH4 | 0.4 g | [BH4-].[Na+]
solvent | EtOH | 100 mL | CCO | C2H6O
product | N-phenylmethyl-1-azabicyclo[2.2.2]octan-3-amine | 4.2 g, 76% | C1(=CC=CC=C1)CNC1CN2CCC1CC2 | C14H20N2
